US08536209B2
2-Methyl-5-phenyl-oxazole-4-carboxylic acid [2-(5-acetyl-thiophen-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A followed by B, starting from 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-thiophen-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 2-methyl-5-phenyl-oxazole-4-carboxylic acid.

reactant | 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-thiophen-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C1=CC=C(S1)CN1N=CC(=N1)N | C11H14N4O2S
reactant | 2-methyl-5-phenyl-oxazole-4-carboxylic acid | CC=1OC(=C(N1)C(=O)O)C1=CC=CC=C1 | C11H9NO3
product | 2-Methyl-5-phenyl-oxazole-4-carboxylic acid [2-(5-acetyl-thiophen-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide | C(C)(=O)C1=CC=C(S1)CN1N=CC(=N1)NC(=O)C=1N=C(OC1C1=CC=CC=C1)C | C20H17N5O3S
